US07012075B2
To a solution of methyl N-(3-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}isoxazol-4-yl)-N-[(2,2,2-trichloroethoxy)carbonyl]leucinate (1.0 g, 1.55 mmol) in THF (20 mL) was added acetic acid (10 mL) and zinc dust (2.8 g, 42.8 mmol). The mixture was sonicated for 1 min, then stirred 1.5 h at room temperature. The solids were filtered through celite and the filtrate was co-evaporated with heptane. The residue was dissolved in ethyl acetate and washed with aqueous NaHCO3 and brine and concentrated. The residue was dissolved in methanol (25 mL) and 2 M LiOH (5 mL) was added. The mixture was stirred overnight at room temperature, then diluted with ethyl acetate and washed with pH 3 phosphate buffer. The organic phase was washed with brine and dried over MgSO4, and concentrated to give 710 mg of N-(3-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}isoxazol-4-yl)leucine.

reactant | methyl N-(3-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}isoxazol-4-yl)-N-[(2,2,2-trichloroethoxy)carbonyl]leucinate | 1.55 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C1=NOC=C1N([C@@H](CC(C)C)C(=O)OC)C(=O)OCC(Cl)(Cl)Cl | C28H37Cl3N4O7
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | zinc | 42.8 mmol, 2.8 g | [Zn] | Zn
product | N-(3-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}isoxazol-4-yl)leucine | 710 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C1=NOC=C1N[C@@H](CC(C)C)C(=O)O | C24H34N4O5
